US08975254B2
(S)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide
The title compound was prepared using the method of Example 247 starting from 2-methyl-1H-imidazole-4-carboxylic acid and (S)-4-[1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile. The crude product was purified by triturating in DCM at RT. 1H NMR (400 MHz, DMSO-d6): 1.44 (3H, d), 2.27 (3H, s), 3.57 (1H, m), 3.67 (1H, m), 4.68 (1H, m), 6.96 (1H, d), 7.44 (1H, s), 7.89 (1H, d), 7.95-7.99 (3H, m), 8.12 (1H, s), 12.1 (1H, broad s).

reactant | 2-methyl-1H-imidazole-4-carboxylic acid | CC=1NC=C(N1)C(=O)O | C5H6N2O2
reactant | (S)-4-[1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
product | (S)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C=1N=C(NC1)C)C | C18H17ClN6O
